US07745414B2
(2) 4-Difluoromethyl-phenylboronic acid
In a departure from the procedure described above the compound is prepared from 4-difluoromethyl-1-iodo-benzene (prepared from 4-iodobenzaldehyde using diethylaminosulfurtrifluoride (DAST) in dichloromethane) using iPrMgCl to generate the arylmetal compound and trapping this intermediate with trimethyl borate.

reactant | 4-difluoromethyl-1-iodo-benzene | FC(C1=CC=C(C=C1)I)F | C7H5F2I
reactant | iPrMgCl | C(C)(C)[Mg]Cl
reactant | trimethyl borate | B(OC)(OC)OC | C3H9BO3
product | 4-Difluoromethyl-phenylboronic acid | FC(C1=CC=C(C=C1)B(O)O)F | C7H7BF2O2
